US06727264B1
N-[3-(1-{3-[2-(3-CHLOROPHENYL)-5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure E and Scheme M using N-(3-{1-[5-(3-chlorophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide and 4-(trifluoromethoxy)phenylhydrazine hydrochloride: ESMS m/e: 598.2 (M+H)+.

reactant | N-(3-{1-[5-(3-chlorophenyl)-5-oxopentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | ClC=1C=C(C=CC1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C26H33ClN2O2
reactant | 4-(trifluoromethoxy)phenylhydrazine hydrochloride | Cl.FC(OC1=CC=C(C=C1)NN)(F)F
product | N-[3-(1-{3-[2-(3-CHLOROPHENYL)-5-(TRIFLUOROMETHOXY)-1H-INDOL-3-YL]PROPYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | ClC=1C=C(C=CC1)C=1NC2=CC=C(C=C2C1CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)OC(F)(F)F | C33H35ClF3N3O2
